US07700595B2
A solution of sodium nitrite (0.20 g, 2.8 mmol) in water (0.5 mL) was added dropwise, to a solution of 1-(2-amino-3-methylphenyl)-2-phenylethanone (0.42 g, 1.9 mmol) in acetic acid (9 mL) and sulfuric acid (1.5 mL). After the solution was stirred for 20 min at 80° C., the solution was poured into iced water. After the pH was adjusted to 6 with 2 N sodium hydroxide. The aqueous layer was extracted with ethyl acetate. The combined organics was dried over MgSO4 and concentrated. The material was purified via column chromatography using 5-50% ethyl actetate in hexane as the eluent to yield 0.10 g of 8-methyl-3-phenylcinnolin-4-ol as a gum. MS (ESI) m/z 237; HRMS (ESI, [M+H]+) 237.102;

reactant | sodium nitrite | 2.8 mmol, 0.20 g | N(=O)[O-].[Na+]
reactant | 1-(2-amino-3-methylphenyl)-2-phenylethanone | 1.9 mmol, 0.42 g | NC1=C(C=CC=C1C)C(CC1=CC=CC=C1)=O | C15H15NO
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | water | 0.5 mL | O | H2O
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
product | 8-methyl-3-phenylcinnolin-4-ol | 0.10 g | CC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)O | C15H12N2O
